US06699992B2
73.8 g of methyl 2,4-dichloro-5-fluoro-3-methoxybenzoylacetate (0.25 mol), 66.6 g of triethyl orthoformate (0.45 mol) and 77.4 g of diacetyl oxide (0.72 mol) were stirred at 150° C. for 2.5 hours. Fractions having a lower boiling point were evaporated under reduced pressure. To the residue was added 250 ml of anhydrous ethanol. 14.5 g of cyclopropylamine (0.25 mol) was added to the solution and the reaction was then carried out for 2 hours. The resulting mixture was filtered under suction. The residue was re-crystallized from a mixture of petroleum ether and cyclohexane to yield 66.0 g (0.182 mol) of methyl 2-(2,4-dichloro-5-fluoro-3-methoxybenzoyl)-3-cyclopropylaminoacrylate in 72.9% yield.

reactant | methyl 2,4-dichloro-5-fluoro-3-methoxybenzoylacetate | 0.25 mol, 73.8 g | ClC1=C(C(=O)CC(=O)OC)C=C(C(=C1OC)Cl)F | C11H9Cl2FO4
reactant | triethyl orthoformate | 0.45 mol, 66.6 g | C(OCC)(OCC)OCC | C7H16O3
reactant | diacetyl oxide | 0.72 mol, 77.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | cyclopropylamine | 0.25 mol, 14.5 g | C1(CC1)N | C3H7N
product | methyl 2-(2,4-dichloro-5-fluoro-3-methoxybenzoyl)-3-cyclopropylaminoacrylate | 0.182 mol, 66.0 g, 72.9% yield | ClC1=C(C(=O)C(C(=O)OC)=CNC2CC2)C=C(C(=C1OC)Cl)F | C15H14Cl2FNO4
